US06353015B1
Propionic anhydride (0.3 ml, 2.3 mmol) was added dropwise at room temperature to a well-stirred mixture of 5-benzyloxytryptamine hydrochloride (0.605 g, 2 mmol), Et3N (0.65 ml, 4.6 mmol) and CH2Cl2 (5 ml). After stirring for 24 h, the reaction mixture was washed with water (2.5 ml), 5% solution of NaHCO3 (10 ml), 1% solution of HCl (5 ml) and then saturated solution of NaCl (10 ml). After drying over Na2SO4, the solvent was evaporated. Recrystallization of residue from benzene-heptane gave a yield of 0.515 g (80%) of N-[2-(5-benzyloxyindol-3-yl)ethyl]propanamide: mp 110-112° C. 1H NMR(CDCl3, ppm, δ): 1.11(3H, t, CH2CH3, J=8 Hz), 2.13(2H, q, CH2CH3), 2.90(2H, t, β-CH2, J=6.7 Hz), 3.58 (2H, q, α-CH2, J=6.2 Hz), 5.10(2H, s, CH2—O), 5.59(1H, bs, NH), 6.86-7.04(2H, m, 2- and 6-H), 7.13(1H, d, 4-H, J4-6=2Hz), 7.25-7.68(6H, m 7-H and Ph), 8.15(1H, bs, 1-H). Found, %: C 74.23; H 6.75; N 8.77. C20H22N2O2. Calc., %: C 74.53; H 6.83; N 8.70%.

reactant | Propionic anhydride | 2.3 mmol, 0.3 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 5-benzyloxytryptamine hydrochloride | 2 mmol, 0.605 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2NC=C(CCN)C2=C1
reactant | Et3N | 4.6 mmol, 0.65 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(5-benzyloxyindol-3-yl)ethyl]propanamide | yield of 0.515 g, 80% | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCNC(CC)=O | C20H22N2O2
